US04046768
Preparation of 5-Iodothiazol-2-yl Isocyanate Dimer
2-Amino-5-iodothiazole (19.0 grams) and a saturated solution of phosgene in ethyl acetate (200 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux with stirring for a period of about 3 hours. After this time the reaction mixture is cooled and filtered to recover the desired product 5-iodothiazol-2-ylisocyanate dimer.

reactant | 2-Amino-5-iodothiazole | 19.0 grams | NC=1SC(=CN1)I | C3H3IN2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-Iodothiazol-2-yl Isocyanate | IC1=CN=C(S1)N=C=O | C4HIN2OS
